US06251897B1
(1) Synthesis of 3-butoxy-4-methoxybenzaldehyde
Isovanillin (6.00 g, 39.4 mM), butyl iodide (5.7 ml, 49.3 mM), and anhydrous potassium carbonate (6.8 g, 49.3 mM) were dissolved in dried dimethylformamide (50 ml) and stirred at room temperature for one night, then the solution was diluted with ethyl acetate (300 ml) and washed with water. The organic layer was dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to obtain a residue as a light yellow oil. The residue was purified by flash chromatography (SiO2: eluted by 20% ethyl acetate/hexane solution). The solvent was removed in vacuo and the resultant product was dried to obtain 3-butoxy-4-methoxy-3-benzaldehyde 8.09 g (yield 99.0%) as a light yellow oil.

reactant | Isovanillin | 39.4 mM, 6.00 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | butyl iodide | 49.3 mM, 5.7 ml | C(CCC)I | C4H9I
reactant | potassium carbonate | 49.3 mM, 6.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 3-butoxy-4-methoxybenzaldehyde | C(CCC)OC=1C=C(C=O)C=CC1OC | C12H16O3
